US06001847
Methyl 1,2,3,4-tetrahydro-1-(4-fluorophenyl)-9H-pyrido[3,4-b]indole-3-carboxylate, cis and trans isomers
The same method as employed in the preparation of intermediate 1 and 2 but starting from racemic tryptophan methyl ester and 4-fluorobenzaldehyde gave the cis isomer as white crystals m.p.:92° C. and the trans isomer as pale yellow crystals m.p.:183° C.

reactant | racemic tryptophan methyl ester | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | Methyl 1,2,3,4-tetrahydro-1-(4-fluorophenyl)-9H-pyrido[3,4-b]indole-3-carboxylate | FC1=CC=C(C=C1)C1NC(CC2=C1NC1=CC=CC=C21)C(=O)OC | C19H17FN2O2
